.SUBCKT PHW80NQ10T 1 2 3
* 1=drain  2=gate  3=source
L1 1 11 4.5e-9
L2 2 22 7.5e-9
L3 3 33 7.5e-9
Cgs  6 33 3183E-12
Cgd1 6 4 5740E-12
Cgd2 11 4 350E-12
M1 5 6 33 33 MOST1
M2 4 6 5 33 MOST2
D1 33 12 Dbody
Rdiode 12 11 Rtemp 0.7e-3
Rdrain 5 11 Rtemp 8e-3
Rgate 22 6 15
.MODEL MOST1 NMOS (LEVEL=3 W=0.1 L=0.3e-6 Vto=3.31 Kp=1.09e-4 
+                          RS=0 RD=0 UO=650 VMAX=0 XJ=0.5E-6 KAPPA=10E-2
+                          ETA=1e-4 TPG=1 IS=0 LD=0 WD=0 CGSO=0 CGDO=0
+                          CGBO=0 NFS=.4e12 DELTA=0.1)
.MODEL MOST2 NMOS (LEVEL=3 W=0.1 L=0.3e-6 Vto=-4.97 Kp=1.09e-4 
+                          RS=1000 RD=1000 UO=650 VMAX=0 XJ=0.5E-6 KAPPA=10E-2
+                          ETA=1e-4 TPG=1 IS=0 LD=0 WD=0 CGSO=0 CGDO=0
+                          CGBO=0 NFS=0 DELTA=0.1)
.MODEL Dbody D(Is=1e-14 N=0.8 Rs=1.7e-3 Ikf=1e3 Cjo=0 M=0.5 Vj=0.4
+                         Bv=100 Ibv=250e-6 Tt=89e-9)
.MODEL Rtemp RES(TC1=6.81e-3 TC2=2.86e-5)
.ENDS
